US05708033
To a mixture of 2-chloro-4-fluorobenzaldehyde (20.0 g, 0.13 mol, Aldrich) and malonic acid (26.2 g, 0.25 mol, Aldrich) in pyridine (100 ml) at 50° C. was added dropwise piperidine (10 ml). After 18 h at 70° C., the mixture was poured into an ice cold solution of concentrated HCl (120 ml) and water (1.5 L). The resulting solid was filtered and washed repeatedly with water to give 24.4 g (96%) of 2-chloro-4-fluoro-cinnamic acid as a white solid: Recrystallization of 1.5 g from acetone:water mixtures gave 1.1 g of 2-chloro-4-fluorocinnamic acid as a white solid: mp 243°-245° C.

reactant | 2-chloro-4-fluorobenzaldehyde | 0.13 mol, 20.0 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | malonic acid | 0.25 mol, 26.2 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 10 ml | N1CCCCC1 | C5H11N
reactant | HCl | 120 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1.5 L | O | H2O
product | 2-chloro-4-fluoro-cinnamic acid | 24.4 g, 96% | ClC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6ClFO2
